US07375093B2
To a stirred solution of (3,5-dichloro-phenyl)-(1-nitro-cyclohexyl)-methanol (5.87 g, 19.3 mmol) in methanol (40 mL) and concentrated HCl (10 mL), cooled to ˜5° C., was added zinc powder. The mixture was stirred at room temperature overnight and filtered through Celite. The filter cake was washed with methanol (2×100 mL) and the filtrate was evaporated to dryness. The residue was treated with 5% aqueous NaOH (100 mL) and extracted with ethyl acetate (2×200 mL). The combined organic extracts were dried over Na2SO4 and evaporated to leave (1-amino-cyclohexyl)-(3,5-dichloro-phenyl)-methanol (4.36 g) as a white solid. 1H NMR (500 MHz, CDCl3) δ(ppm): 7.25 (s, 1H), 7.185 (s, 2H), 4.21 (s, 1H), 1.55 (m, 4H), 1.3 (m, 3H), 1.1 (m, 3H).

reactant | (3,5-dichloro-phenyl)-(1-nitro-cyclohexyl)-methanol | 19.3 mmol, 5.87 g | ClC=1C=C(C=C(C1)Cl)C(O)C1(CCCCC1)[N+](=O)[O-] | C13H15Cl2NO3
solvent | methanol | 40 mL | CO | CH4O
solvent | HCl | 10 mL | Cl | ClH
catalyst | zinc | [Zn] | Zn
product | (1-amino-cyclohexyl)-(3,5-dichloro-phenyl)-methanol | 4.36 g | NC1(CCCCC1)C(O)C1=CC(=CC(=C1)Cl)Cl | C13H17Cl2NO
